US07528254B2
Another three-necked flask equipped with a thermometer, a nitrogen inlet and a magnetic stirrer was charged at room temperature with 6.7 g (0.0459 moles) of 1-(mercaptomethyl)cyclopropaneacetic acid and 48 ml of NMP under stirring and under nitrogen atmosphere to obtain a solution. 4.5 g of NaOH flakes (0.1125 moles) was added in one portion at room temperature followed by addition of 2.4 ml of water, and stirring was maintained for 1 hour to afford a suspension. The solution of compound (III) in about 50 ml THF, which was kept at 5° C., was added in portions at ambient temperature. After completing the addition, the mixture was stirred for 2 hours and reaction completion was checked by HPLC. 130 ml of toluene was added to the reaction mixture along with 130 ml of 5% sodium chloride solution, and the mixture was stirred for 20 minutes. Then, the layers were separated and the upper organic layer was washed with 130 ml of 5% sodium chloride solution, and the layers were separated. 84 ml of 0.5 M tartaric acid solution was added to the upper layer and the layers were separated. The upper layer was washed with 40 ml of water and again separated. The organic layer was distilled to dryness to afford an oily residue. 90 ml of toluene was added to the residue under stirring to obtain a solution. 3.1 ml of cyclooctylamine (0.0226 moles) was added and stirring was maintained for few minutes and the solution was seeded with crystalline montelukast acid cyclooctyl ammonium salt. Stirring was maintained at room temperature to afford a suspension, which was filtered off to obtain a cake. The cake was washed with toluene and dried at 40° C. in vacuum to afford 9.88 g of dry crude montelukast acid cyclooctyl ammonium salt in 70% yield, having 98% purity (according to HPLC). The crude montelukast cyclooctyl ammonium salt was crystallized from toluene containing about 2% of methanol to obtain a product having 99% purity (according to HPLC). 30 ml of dichloromethane was added followed by addition of 17 ml of 0.5M citric acid solution. The mixture was stirred at room temperature for half an hour to afford a two phase system. The layers were separated and the organic layer (containing the montelukast acid) was washed with 3×15 ml water, the layers were separated and the aqueous layer was removed. 20 ml of water was added under stirring followed by addition of 4 ml of 1M NaOH solution and stirring was maintained for about 5 minutes. The dichloromethane was distilled off at a temperature lower than 35° C. The pH was checked and 1 M NaOH solution was added drop-wise until the pH value was about 10.5. The aqueous layer (containing the desired end product) was freeze-dried to obtain 8.3 g of montelukast sodium in 99% yield having a purity of 99.8% (according to HPLC).

reactant | 1-(mercaptomethyl)cyclopropaneacetic acid | 0.0459 moles, 6.7 g | SCC1(CC1)CC(=O)O | C6H10O2S
reactant | NaOH | 4.5 g | [OH-].[Na+]
reactant | sodium chloride | 130 ml | [Cl-].[Na+]
reactant | cyclooctylamine | 0.0226 moles, 3.1 ml | C1(CCCCCCC1)N | C8H17N
reactant | montelukast | CC(C)(C=1C=CC=CC1CC[C@H](C=2C=CC=C(C2)/C=C/C=3C=CC=4C=CC(=CC4N3)Cl)SCC5(CC5)CC(=O)O)O | C35H36ClNO3S
reactant | citric acid | 0.5M, 17 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | about 50 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 2.4 ml | O | H2O
solvent | NMP | 48 ml | CN1CCCC1=O | C5H9NO
product | montelukast sodium | 8.3 g, 99% yield | CC(C)(C=1C=CC=CC1CC[C@H](C=2C=CC=C(C2)/C=C/C=3C=CC=4C=CC(=CC4N3)Cl)SCC5(CC5)CC(=O)[O-])O.[Na+] | InChI=1S/C35H36ClNO3S.Na/c1-34(2,40)30-9-4-3-7-25(30)13-17-32(41-23-35(18-19-35)22-33(38)39)27-8-5-6-24(20-27)10-15-29-16-12-26-11-14-28(36)21-31(26)37-29;/h3-12,14-16,20-21,32,40H,13,17-19,22-23H2,1-2H3,(H,38,39);/q;+1/p-1/b15-10+;/t32-;/m1./s1
